US07923561B2
(R)-Indan-1-yl-(5-phenyl-quinolin-2-yl)-amine
(R)-Indan-1-yl-(5-iodo-quinolin-2-yl)-amine (150 mg, 0.39 mmol) was dissolved in 5 mL 1,2-dimethoxyethane and 2.5 mL 1M sodium carbonate solution. Phenylboronic acid (59 mg, 0.48 mmol) was added. Argon was bubbled through the solution for 2 minutes to remove oxygen. Triphenylphosphine (11 mg, 0.04 mmol) and Palladium acetate (4 mg, 0.02 mmol) were added. The reaction mixture was refluxed overnight. The reaction was diluted with 50 mL water and the mixture was extracted three times with ethyl acetate (100 mL each). The organic phases ware pooled, dried with sodium sulfate, filtered and evaporated. The residue was purified by flash chromatography on silica gel (heptane/ethyl acetate 100:0->80:20 gradient). The title compound was obtained as a colorless solid (114 mg, 87%), MS: m/e=337.4 (M+H+).

reactant | (R)-Indan-1-yl-(5-iodo-quinolin-2-yl)-amine | 0.39 mmol, 150 mg | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=CC(=C2C=C1)I | C18H15IN2
reactant | Phenylboronic acid | 0.48 mmol, 59 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Triphenylphosphine | 0.04 mmol, 11 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | 1,2-dimethoxyethane | 5 mL | COCCOC | C4H10O2
solvent | sodium carbonate | 1M, 2.5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 50 mL | O | H2O
catalyst | Palladium acetate | 0.02 mmol, 4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (R)-Indan-1-yl-(5-phenyl-quinolin-2-yl)-amine | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=CC(=C2C=C1)C1=CC=CC=C1 | C24H20N2
